US06071925
To a stirred mixture of 2,3-dihydro-phenalen-1-one (1.32 g, 7.24 mmol), hydroxylamine hydrochloride (0.85 g, 12.2 mmol) and water (6 ml) was added dropwise at 75° C. MeOH (7.5 ml) and afterwards a solution of sodium acetate (2.58 g, 19.0 mmol) in water (4 ml). Stirring was continued over a period of 1.5, h, water (20 ml) was added and after cooling (ice bath) the solid was collected by filtration. After drying in vacuo the crude product was dissolved in 3.5 N NH3 /MeOH (100 ml) and hydrogenated over Raney-Nickel (0.5 g, washed with MeOH) at RT for 17h. The catalyst was filtered off, the solution evaporated in vacuo and the residue purified by column chromatography on silica gel (dichloromethane/MeOH 9:1) to yield (RS)-2,3-dihydro-1H-phenalen-1-yl-amine (0.95 g) as a brown oil.

reactant | 2,3-dihydro-phenalen-1-one | 7.24 mmol, 1.32 g | C1(CCC2=CC=CC3=CC=CC1=C23)=O | C13H10O
reactant | hydroxylamine hydrochloride | 12.2 mmol, 0.85 g | Cl.NO
reactant | MeOH | 7.5 ml | CO | CH4O
reactant | sodium acetate | 19.0 mmol, 2.58 g | C(C)(=O)[O-].[Na+]
solvent | water | 4 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | water | 6 ml | O | H2O
product | (RS)-2,3-dihydro-1H-phenalen-1-yl-amine | 0.95 g | C1(CCC2=CC=CC3=CC=CC1=C23)N | C13H13N
